US06344559B1
To a mixed suspension of 7-chloro-2,4-dioxo-1,2,3,4-tetrahydroquinazoline (20 g) and hexamethyldisilazane (16.42 g) in toluene (60 ml) was added sulfuric acid (0.80 g) dropwise and the silylation reaction was carried out at an internal temperature of 110˜120° C. for 6 hours. After completion of silylation, the toluene was distilled off to recover a concentrate containing 7-chloro-2,4-bis(trimethylsilyloxy)quinazoline. To this concentrate were added propylene carbonate (40 ml), ethyl chloroacetate (13.72 g) and ethyl bromoacetate (3.40 g), and the reaction was carried out at an internal temperature of 125˜140° C. for 6 hours. After completion of reaction, the reaction mixture was cooled to an internal temperature of ≦70° C. and ethyl acetate (80 ml) was added. Then, methanol (60 ml) was added dropwise over 30 minuets. After completion of dropwise addition, the mixture was cooled to ≦20° C. and stirred for 1 hour. The resulting crystal crop was harvested by filtration, washed serially with methanol (40 ml) and water (100 ml) and dried to provide ethyl 2-(7-chloro-2,4-dioxo-1,2,3,4-tetrahydroquinazolin-1-yl)acetate (28.16 g) as white crystals.

reactant | 7-chloro-2,4-dioxo-1,2,3,4-tetrahydroquinazoline | 20 g | ClC1=CC=C2C(NC(NC2=C1)=O)=O | C8H5ClN2O2
reactant | hexamethyldisilazane | 16.42 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
reactant | methanol | 60 ml | CO | CH4O
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
catalyst | sulfuric acid | 0.80 g | S(O)(O)(=O)=O | H2O4S
product | ethyl 2-(7-chloro-2,4-dioxo-1,2,3,4-tetrahydroquinazolin-1-yl)acetate | 28.16 g | ClC1=CC=C2C(NC(N(C2=C1)CC(=O)OCC)=O)=O | C12H11ClN2O4
